US05795892
24.8 g (200 mmol) 5-methyl-resorcinol, 200 ml ether, 400 ml sodium hydrogen carbonate solution and 28.2 ml (220 mmol) benzenesulfonyl chloride were stirred for 2 d at room temperature, the organic phase was separated, the aqueous phase was extracted with ether, the combined organic phases were dried over sodium sulfate, filtered, the solvent was removed in a vacuum and 52 g (quant.) benzenesulfonic acid-3-hydroxy-5-methyl-phenyl ester was obtained. Fp 108°-110° C.

reactant | 5-methyl-resorcinol | 200 mmol, 24.8 g | CC=1C=C(C=C(O)C1)O | C7H8O2
reactant | sodium hydrogen carbonate | 400 ml | C(O)([O-])=O.[Na+]
reactant | benzenesulfonyl chloride | 220 mmol, 28.2 ml | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
solvent | ether | 200 ml | CCOCC | C4H10O
product | benzenesulfonic acid-3-hydroxy-5-methyl-phenyl ester | 52 g | OC=1C=C(C=C(C1)C)OS(=O)(=O)C1=CC=CC=C1 | C13H12O4S
